US07291631B2
To a cold (0° C.) solution of 2-{[(3-Chloro-pyridin-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-5-cyano-benzoic acid methyl ester (0.314 g, 0.75 mmol) in MeOH (7 mL) was added LiBH4 (106 mg, 4.89 mmol) and the mixture was allowed to warm to room temperature overnight. The mixture was concentrated and the residue was partitioned between CH2Cl2 (25 mL) and 1.0 N NaOH (10 mL). The phases were separated and the aqueous phase was extracted with CH2Cl2 (3×10 mL). The combined organic extracts were dried (Na2SO4) and concentrated. Purification of the crude material by column chromatography on silica gel (50:1:1 CH2Cl2-MeOH—NH4OH) provided 0.19 g (65%) of 4-{[(3-Chloro-pyridin-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-3-hydroxymethyl-benzonitrile as a white foam. The white foam from above (0.19 g, 0.48 mmol) was dissolved in NH3 saturated MeOH (10 mL), treated with Raney nickel (80 mg), and placed under 50 psi H2 on a Parr shaker, for 19 h. The mixture was filtered through celite and the cake was washed with methanol. The eluant was concentrated under reduced pressure. Purification of the crude material by column chromatography on silica gel (20:1:1 CH2Cl2-MeOH—NH4OH) provided 0.15 g (82%) of a 1:1 mixture of (5-aminomethyl-2-{[(3-chloro-pyridin-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-phenyl)-methanol and (5-aminomethyl-2-{[(3-methyl-pyridin-2-ylmethyl)-pyridin-2-ylmethyl-amino]-methyl}-phenyl)-methanol as a white solid.

reactant | 2-{[(3-Chloro-pyridin-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-5-cyano-benzoic acid methyl ester | 0.75 mmol, 0.314 g | COC(C1=C(C=CC(=C1)C#N)CN(CC1=NC=CC=C1C)CC1=NC=CC=C1Cl)=O | C23H21ClN4O2
reactant | LiBH4 | 4.89 mmol, 106 mg | [Li+].[BH4-]
solvent | MeOH | 7 mL | CO | CH4O
product | 4-{[(3-Chloro-pyridin-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-3-hydroxymethyl-benzonitrile | 0.19 g, 65% | ClC=1C(=NC=CC1)CN(CC1=NC=CC=C1C)CC1=C(C=C(C#N)C=C1)CO | C22H21ClN4O
